US05589465
144 mg of 2-(tetradecyl)hexadecanoic acid was dissolved in 25 ml of methanol. After the addition of a few drops of concentrated sulfuric acid, the solution was stirred at 55° C. for one day, neutralized with 10% sodium hydroxide and extracted with dichloromethane. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography (ethyl acetate:hexane=1:50) to obtain methyl 2-(tetradecyl)hexadecanoate.

reactant | 2-(tetradecyl)hexadecanoic acid | 144 mg | C(CCCCCCCCCCCCC)C(C(=O)O)CCCCCCCCCCCCCC | C30H60O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 25 ml | CO | CH4O
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
product | methyl 2-(tetradecyl)hexadecanoate | C(CCCCCCCCCCCCC)C(C(=O)OC)CCCCCCCCCCCCCC | C31H62O2
